US09120749B2
(6-bromo-4-(4-(2-(dimethylamino)ethyl)phenylamino)quinolin-3-yl)(cyclopropyl)methanone
Following General procedure C, (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone (311 mg, 1 mmol) was reacted with 4-(2-(dimethylamino)ethyl)aniline (247 mg, 1.5 mmol) to afford the desired product (324 mg, 73%) as a yellow solid: ESI MS m/z 438 [C23H24BrN3O+H]+.

reactant | (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone | 1 mmol, 311 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)Cl | C13H9BrClNO
reactant | 4-(2-(dimethylamino)ethyl)aniline | 1.5 mmol, 247 mg | CN(CCC1=CC=C(N)C=C1)C | C10H16N2
product | (6-bromo-4-(4-(2-(dimethylamino)ethyl)phenylamino)quinolin-3-yl)(cyclopropyl)methanone | 324 mg, 73% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1=CC=C(C=C1)CCN(C)C | C23H24BrN3O
